US09371320B2
F) methyl 4-(4-cyano-3-cyclopentyl-7-oxo-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-1-yl)thiophene-2-carboxylate
To a solution of methyl 4-(4-cyano-3-cyclopentyl-7-methoxy-1H-pyrazolo[3,4-c]pyridin-1-yl)thiophene-2-carboxylate (40 mg) in acetonitrile (5 mL) were added sodium iodide (31.4 mg) and chloro(trimethyl)silane (0.066 mL), and the mixture was stirred at 60° C. for 30 min. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound (20 mg).

reactant | methyl 4-(4-cyano-3-cyclopentyl-7-methoxy-1H-pyrazolo[3,4-c]pyridin-1-yl)thiophene-2-carboxylate | 40 mg | C(#N)C1=C2C(=C(N=C1)OC)N(N=C2C2CCCC2)C=2C=C(SC2)C(=O)OC | C19H18N4O3S
reactant | sodium iodide | 31.4 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 0.066 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | methyl 4-(4-cyano-3-cyclopentyl-7-oxo-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-1-yl)thiophene-2-carboxylate | 20 mg | C(#N)C=1C2=C(C(NC1)=O)N(N=C2C2CCCC2)C=2C=C(SC2)C(=O)OC | C18H16N4O3S
